US09381200B2
Step-2: Preparation of trans-3-[N′-(6-hydroxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl]-(R)-pyrrolidin-1-carboxylic acid tert-butyl ester
By using the procedure described in Step-2 of Example-1, and by using trans-3-[N′-(6-benzyloxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl]-(R)-pyrrolidin-1-carboxylic acid tert-butyl ester (11.5 gm, 0.024 mol), methanol (115 ml) and 10% palladium on carbon (3.0 gm) to provide the title compound in 9.5 gm quantity as a pale brown solid and it was used for the next reaction immediately.

reactant | trans-3-[N′-(6-benzyloxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl]-(R)-pyrrolidin-1-carboxylic acid tert-butyl ester | 0.024 mol, 11.5 gm | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C(=O)NNC(=O)[C@@H]1N2C(N([C@H](CC1)C2)OCC2=CC=CC=C2)=O | C24H33N5O6
catalyst | palladium on carbon | 3.0 gm | [Pd] | Pd
solvent | methanol | 115 ml | CO | CH4O
product | trans-3-[N′-(6-hydroxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)-hydrazinocarbonyl]-(R)-pyrrolidin-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C(=O)NNC(=O)[C@@H]1N2C(N([C@H](CC1)C2)O)=O | C17H27N5O6
